US07674804B2
To a solution of 2,4-dichloro-6,7-dimethoxyquinazoline (5.12 g, 19.8 mmol, 1.0 equiv) in THF (50 mL) was added 4-amino-piperidine-1-carboxylic acid tert-butyl ester (4.34 g, 21.7 mmol, 1.1 equiv) and 1,8-diazabicyclo[5.4.0]undec-7-ene (3.31 g, 3.25 mL, 21.7 mmol, 1.1 equiv) and the reaction mixture stirred at rt for 16 h. Additional 4-amino-piperidine-1-carboxylic acid tert-butyl ester (0.87 g, 4.3 mmol, 0.2 equiv) and 1,8-diazabicyclo[5.4.0]undec-7-ene (0.66 g, 0.65 mL, 4.3 mmol, 0.2 equiv) were added and the mixture was stirred for 2 h. The solvent was evaporated under reduced pressure and the mixture dissolved in dichloromethane (100 mL). The solution washed with water (2×20 mL) and a sat. solution of NaCl (20 mL), the aqueous layers were combined and extracted with dichloromethane (20 mL). The combined organic layers were dried over MgSO4 and evaporated under reduced pressure to give an amber solid. The solid was crystallized from MeOH (500 mL) to afford 4-(2-chloro-6,7-dimethoxy-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (2.67 g, 22%) as a white solid. The mother liquours were evaporated and purified with column chromatography on silica eluting with a gradient of heptane/ethyl acetate (1:1)→ethyl acetate and the fractions combined to afford additional 4-(2-chloro-6,7-dimethoxy-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester (1.0 g, 12%). 1H NMR (250 MHz, CDCl3): δ 1.49-1.51 (m, 2H), 1.61 (s, 9H), 2.30-2.48 (m, 2H), 2.89-3.10 (m, 2H), 4.04 (s, 3H), 4.09 (s, 3H), 4.29-4.48 (m, 2H), 4.75-4.50 (m, 1H), 5.61 (d, J=8.0 Hz, 1H), 6.87 (s, 1H), 7.18 (s, 1H). MS (ESP): 423.5 [M+H]+.

reactant | 2,4-dichloro-6,7-dimethoxyquinazoline | 19.8 mmol, 5.12 g, 1.0 equiv | ClC1=NC2=CC(=C(C=C2C(=N1)Cl)OC)OC | C10H8Cl2N2O2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 21.7 mmol, 4.34 g, 1.1 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 21.7 mmol, 3.25 mL, 3.31 g, 1.1 equiv | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 4.3 mmol, 0.87 g, 0.2 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 4.3 mmol, 0.65 mL, 0.66 g, 0.2 equiv | N12CCCCCC2=NCCC1 | C9H16N2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 4-(2-chloro-6,7-dimethoxy-quinazolin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | 2.67 g, 22% | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C20H27ClN4O4
